Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo G1 at ~7w by LMP presents to ED with acute episode of 
intense lower abdominal pain that awoke her from sleep and was 
severe, came by ambulance, associated with N/V.  Has had ~1 week 
of ongoing dull pain.  ROS neg for F/C, urinary sx; positive for 
constipation for 1 week.
 
Past Medical History:
IBS, bacterial overgrowth, anxiety
 
Social History:
___
Family History:
NC
 
Physical Exam:
on admission

VS: 98.1 61 105/56 16 100% 
General: appears uncomfortable, tearful.  sister present
___: soft, TTP lower midline, no rebound, no guarding.
nondistended. 
Ext: NT
Pelvic per ED resident: OS is closed with mucous plug, vault WNL
with no evidence of bleeding, R adnexal tenderness with no mass
appreciated, no CMT

labs
hct 38.8, wbc wnl
hcg 44k

 
Pertinent Results:
___ 02:08AM BLOOD Glucose-95 UreaN-10 Creat-0.7 Na-138 
K-3.5 Cl-102 HCO3-24 AnGap-16
 
Brief Hospital Course:
Ms. ___ is a ___ yo G1 at ~7w by LMP who was admitted with 
acute onset lower abdominal pain with N/V.  On presentation, 
stable with normal labs and PUS concerning for hemorrhagic cyst 
vs ovarian torsion; IUP noted although no CRL but increased in 
size from prior.  Pain initially controlled with IV meds and was 
admitted to obs.  Also had no BM in 1 week and symptoms improved 
after fleet enema.  Dull pain persisted to a small degree but 
overall greatly improved and abdominal exam benign serially.  
Was able to tolerate PO and discharged to home in good 
condition.
 
Medications on Admission:
PNV, zoloft
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2
2. Prenatal Vitamins 1 TAB PO DAILY 
3. Sertraline 25 mg PO DAILY 
4. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth q8 hours Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
constipation, hemorrhagic cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

You were admitted to the GYN service with abdominal pain. You 
had a pelvic ultrasound which showed normal right ovary and 2 
cysts on your left ovary including a hemorrhagic cyst. You were 
given IV pain medications and observed and your pain improved.

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics. 
* Take a stool softener such as colace while taking narcotics to 
prevent constipation 
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* You may eat a regular diet  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___